US09422271B2
The mixture of 5-(5-bromo-4-(5-cyclopropyl-1H-pyrazol-3-ylamino)pyrimidin-2-yl)-N-tert-butylthiophene-2-sulfonamide (1 g, 2.0 mmol, 1.0 eq), tributyl(vinyl)stannane (956 mg, 3.01 mmol, 1.5 eq), Pd (PPh3)2Cl2 (200 mg, 0.28 mmol, 0.14 eq) and Bu4NBr (642 mg, 2.0 mmol, 1.0 eq) in 1,4-dioxane (30 mL) was stirred at 100° C. for 2 h under N2, cooled to room temperature and partitioned between EtOAc and water. The organic layer was concentrated and purified by silica gel chromatography to afford N-tert-butyl-5-(4-(5-cyclopropyl-1H-pyrazol-3-ylamino)-5-vinylpyrimidin-2-yl)thiophene-2-sulfonamide (755 mg, 80%). LC-MS (m/z)=444 [M+H]+

reactant | 5-(5-bromo-4-(5-cyclopropyl-1H-pyrazol-3-ylamino)pyrimidin-2-yl)-N-tert-butylthiophene-2-sulfonamide | 2.0 mmol, 1 g, 1.0 eq | BrC=1C(=NC(=NC1)C1=CC=C(S1)S(=O)(=O)NC(C)(C)C)NC1=NNC(=C1)C1CC1 | C18H21BrN6O2S2
reactant | tributyl(vinyl)stannane | 3.01 mmol, 956 mg, 1.5 eq | C(CCC)[Sn](C=C)(CCCC)CCCC
catalyst | Bu4NBr | 2.0 mmol, 642 mg, 1.0 eq | [N+](CCCC)(CCCC)(CCCC)CCCC.[Br-]
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | N-tert-butyl-5-(4-(5-cyclopropyl-1H-pyrazol-3-ylamino)-5-vinylpyrimidin-2-yl)thiophene-2-sulfonamide | 755 mg, 80% | C(C)(C)(C)NS(=O)(=O)C=1SC(=CC1)C1=NC=C(C(=N1)NC1=NNC(=C1)C1CC1)C=C | C20H24N6O2S2
